US07704989B2
A suspension of 150 mg of 6-formyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 10 ml of tetrahydrofuran is cooled to 5° C. 1.9 ml of a 3M solution of methylmagnesium chloride in tetrahydrofuran are added dropwise. The reaction mixture is stirred at 5° C. for 4 hours, then treated with 20 ml of a saturated ammonium chloride solution, stirred and then diluted with 30 ml of ethyl acetate. The aqueous phase is extracted with ethyl acetate and the combined organic phases are washed with a saturated sodium chloride solution, dried and concentrated to dryness under reduced pressure. After chromatographing on silica, elution being carried out with dichloromethane and then with mixtures of dichloromethane and ethyl acetate (85/15, then 60/40), the fractions comprising the expected product are combined and evaporated to dryness under reduced pressure to give 59 mg of 6-[(RS)-1-hydroxyethyl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | 6-formyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 150 mg | C(=O)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C15H11N3O2
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 6-[(RS)-1-hydroxyethyl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 59 mg | OC(C)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C16H15N3O2
